US08293913B2
tert-butyl 2-(3-(4-fluorophenylsulfonyl)quinolin-8-yl)hexahydro-1H-pyrrolo[3,4-c]pyridine-5(6H)-carboxylate
The title compound was prepared by analogy to the procedure of Example 1.3, except using tert-butyl hexahydro-1H-pyrrolo[3,4-c]pyridine-5(6H)-carboxylate and 3-(4-fluorophenylsulfonyl)-8-iodoquinoline. 130 mg (55%) of the title compound were obtained as a pale yellow oil.

reactant | tert-butyl hexahydro-1H-pyrrolo[3,4-c]pyridine-5(6H)-carboxylate | C1NCC2CN(CCC21)C(=O)OC(C)(C)C | C12H22N2O2
reactant | 3-(4-fluorophenylsulfonyl)-8-iodoquinoline | FC1=CC=C(C=C1)S(=O)(=O)C=1C=NC2=C(C=CC=C2C1)I | C15H9FINO2S
product | tert-butyl 2-(3-(4-fluorophenylsulfonyl)quinolin-8-yl)hexahydro-1H-pyrrolo[3,4-c]pyridine-5(6H)-carboxylate | 130 mg, 55% | FC1=CC=C(C=C1)S(=O)(=O)C=1C=NC2=C(C=CC=C2C1)N1CC2CN(CCC2C1)C(=O)OC(C)(C)C | C27H30FN3O4S
